US07919518B2
To a solution of benzyl 1-benzyl-5-methoxy-1H-indazole-3-carboxylate (17.7 g; 0.05 mol), diethyl ether (100 ml) and tetrahydrofuran (THF) (170 ml) stirred at room temperature was slowly added LiAlH4 (3.8 g; 0.1 mol). Once the addition was complete, the suspension was stirred at reflux for 24 hours. The reaction was stopped by destroying the excess LiAlH4 via addition of water (40 ml) and 5N NaOH (10 ml). The organic phase was separated out and the solvent was evaporated off under reduced pressure. The crude residue obtained was purified by crystallization from 95° ethanol to give 14 g of (1-benzyl-5-methoxy-1H-indazol-3-yl)methanol with a melting point of 97-98° C.

reactant | benzyl 1-benzyl-5-methoxy-1H-indazole-3-carboxylate | 0.05 mol, 17.7 g | C(C1=CC=CC=C1)N1N=C(C2=CC(=CC=C12)OC)C(=O)OCC1=CC=CC=C1 | C23H20N2O3
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
reactant | LiAlH4 | 0.1 mol, 3.8 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | tetrahydrofuran | 170 ml | O1CCCC1 | C4H8O
product | (1-benzyl-5-methoxy-1H-indazol-3-yl)methanol | 14 g | C(C1=CC=CC=C1)N1N=C(C2=CC(=CC=C12)OC)CO | C16H16N2O2
